US08431575B2
To a stirred solution of (±)-trans-pyrrolidine-1,3,4-tricarboxylic acid 1-tert-butyl ester 3,4-diethyl ester (15.85 mmol, 5 g) in a mixture of THF (50 mL) and methanol (50 mL) was added NaBH4 (4 g) portions wise over a period of 1 h. The volatiles were removed under reduced pressure. To the residue was added water and extracted with DCM. The organic layer was dried and concentrated under reduced pressure. The residue was purified by flash silica gel column chromatography by eluting with ethyl acetate to provide (±)-trans-3,4-bis-hydroxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester.

reactant | (±)-trans-pyrrolidine-1,3,4-tricarboxylic acid 1-tert-butyl ester 3,4-diethyl ester | 15.85 mmol, 5 g | C(C)OC(=O)[C@@H]1CN(C[C@H]1C(=O)OCC)C(=O)OC(C)(C)C | C15H25NO6
reactant | NaBH4 | 4 g | [BH4-].[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | methanol | 50 mL | CO | CH4O
product | (±)-trans-3,4-bis-hydroxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CO)CO | C11H21NO4
